US04364956
4-Dimethylamino-3-phenyl-3-buten-2-one
A stirred mixture of benzyl methyl ketone (26.8 ml) and dimethylformamide dimethyl acetal (30.0 ml) was heated in a distillation apparatus on an oil bath at 95°-100° C. for 11/2 hours. Methanol slowly distilled off. The residual volatiles were removed under vacuum and the resulting oil was crystallised from ether-petroleum spirit (40°-60° C.) to yield the title compound (mp 66° C.).

reactant | benzyl methyl ketone | 26.8 ml | CC(=O)CC1=CC=CC=C1 | C9H10O
reactant | dimethylformamide dimethyl acetal | 30.0 ml | COC(N(C)C)OC | C5H13NO2
product | 4-Dimethylamino-3-phenyl-3-buten-2-one | CN(C=C(C(C)=O)C1=CC=CC=C1)C | C12H15NO
